US07687517B2
9-Methyl-3-(6-nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane free base
A mixture of 9-methyl-3,9-diaza-bicyclo[3.3.1]nonane (0.50 g, 3.56 mmol), 2-chloro-6-nitroquinoline (0.74 g, 3.56 mmol), N,N-diisopropylethylamine (0.92 g, 7.13 mmol) and dioxane (25 ml) was stirred at reflux for 40 h. The mixture was allowed to cool to room temperature. The precipitated product was filtered and was washed with diethylether. The crude product was purified by silica gel column chromatography using a solvent mixture of dichloromethane, methanol and aqueous ammonia (9:1:1%). The pure product was isolated. Yield 300 mg (27%). Mp 166.2° C. LC-ESI-HRMS of [M+H]+ shows 313.1674 Da. Calc. 313.166451 Da, dev. 3 ppm.

reactant | 9-methyl-3,9-diaza-bicyclo[3.3.1]nonane | 3.56 mmol, 0.50 g | CN1C2CNCC1CCC2 | C8H16N2
reactant | 2-chloro-6-nitroquinoline | 3.56 mmol, 0.74 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | N,N-diisopropylethylamine | 7.13 mmol, 0.92 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 9-Methyl-3-(6-nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane | CN1C2CN(CC1CCC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C17H20N4O2
